US05652321
In 360 ml of methyl ethyl ketone was dissolved 27.8 g of bis(2-mercaptoethyl)sulfide, and the solution was then cooled to 5° C. Next, 32 g of a 45% aqueous sodium hydroxide solution was added dropwise thereto, followed by vigorous stirring. To this solution, 60 g of ethyl bromoacetate was added dropwise, and reaction was then carried out at room temperature for 1 hour. Afterward, 200 ml of ethyl acetate was added thereto, and the solution was washed with 50 ml of an aqueous saturated ammonium chloride solution twice, and then dried over anhydrous sodium sulfate. Afterward, the solvent was distilled off under reduced pressure to obtain 44 g of light yellow oily bis(2-ethyloxycarbonylmethylthioethyl) sulfide. This sulfide was dissolved in 70 ml of isopropanol, and 18 g of hydrazine monohydrate was added dropwise thereto, while a solution temperature of 5° C. was maintained. After 2 hours, the produced white crystalline bis(2-hydrazinocarbonylmethylthioethyl) sulfide was collected by filtration. Next, the collected crystals were washed with 20 ml of cold isopropanol twice and further washed with 10 ml of hexane. After drying, the dried material was dissolved in 150 ml of water and then cooled to 5° C., and 25 g of concentrated hydrochloric acid was then added dropwise thereto. Furthermore, a solution obtained by dissolving 16 g of sodium nitrite in 50 ml of water was added dropwise thereto. After 30 minutes, 150 ml of benzene was added thereto, and the solution was then heated up to room temperature, while vigorously stirred. Next, the resulting organic layer was separated, and then dried over anhydrous magnesium sulfate. Afterward, toluene was added thereto for dilution so as to bring the total volume to 500 ml, and the solution was then slowly heated up to 55° C. to gently carry out reaction so that nitrogen might be continuously generated. After the reaction at 70° C. for 3 hours, the solution was cooled to room temperature and then allowed to stand overnight, and the resulting white precipitate was removed by filtration. Afterward, the solvent was distilled off under reduced pressure. The obtained colorless oily product was distilled at 80° C. under a reduced pressure of 0.3 mmHg for 2 hours to remove impurities, thereby obtaining the desired bis[2-(isocyanatomethylthio)ethyl]sulfide.

reactant | bis(2-mercaptoethyl)sulfide | 27.8 g | SCCSCCS | C4H10S3
reactant | sodium hydroxide | [OH-].[Na+]
reactant | ethyl bromoacetate | 60 g | BrCC(=O)OCC | C4H7BrO2
reactant | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | methyl ethyl ketone | 360 ml | C(C)C(=O)C | C4H8O
product | bis(2-ethyloxycarbonylmethylthioethyl) sulfide | 44 g | C(C)OC(=O)CSCCSCCSCC(=O)OCC | C12H22O4S3
